US04402960
A solution of 2.164 g of 3-chloroperbenzoic acid (80%) in 150 ml of dichloromethane is dropped to a solution of 4.03 g of 4,5-bis(4-methoxyphenyl)-2-(4-methylphenylthio)imidazole in 100 ml of dichloromethane. The solution is agitated for 3 hours at room temperature, washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 150 g of silica gel with acetone/hexane, thus obtaining 3.71 g of 4,5-bis(4-methoxyphenyl)-2-(4-methylphenylsulfinyl)imidazole as an amorphous foam.

reactant | 3-chloroperbenzoic acid | 2.164 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-methoxyphenyl)-2-(4-methylphenylthio)imidazole | 4.03 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC=C(C=C1)C | C24H22N2O2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(4-methylphenylsulfinyl)imidazole | 3.71 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S(=O)C1=CC=C(C=C1)C | C24H22N2O3S
